Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Oxycodone
 
Attending: ___.
 
Chief Complaint:
 Progressive SOB x 1 week
 
Major Surgical or Invasive Procedure:
Electrophysiology study with pacemaker placement ___

 
History of Present Illness:
 Mr. ___ is a ___ male with hypertension, type 2 
diabetes, obesity, and venous stasis with recurrent cellulitis 
who presents with shortness of breath and lightheadedness. 
.  
The patient reports three months of feeling lightheaded, 
especially with head movement and exertion. Reports associated 
nausea but no vomiting. He states that sensation lasts second 
and resolves when stands still briefly. He denies associated 
chest pain, palpitatiosn, diaphoresis. However, he has noted 
some shortness of breath with exertion increasing over the past 
three weeks. He denies associated chest pain,palpitations, 
diaphoresis. He also reports noting subjective weight gain, 
fatigue, puffiness of lower eyelids in the morning, eye dryness 
also over the last three weeks. He denies cough, fevers, chills, 
orthopnea (sleeps with cpap), pnd, or increase in baseline ___ 
edema. This morning, he was with wife at her liver appt and he 
had them take his BP. They noticed he was bradycardic and was 
sent in for evaluation.
.
In the ED, initial vitals were 98.5 51 127/44 18 97%.  Labs and 
imaging significant for creatinine 1.1. Patient given 
nothing.Vitals on transfer were   137/62, 60, 18, 100%, ___ 
pain. On arrival to the floor the patient reports feeling well.

.   
.  
REVIEW OF SYSTEMS
+groin pruritus
+ fatigue
+ erectile dysfunction  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, cough, 
hemoptysis, black stools or red stools. He denies recent fevers, 
chills or rigors. He denies vertigo, denies headache or hearing 
loss but does report external otitis treated three weeks ago. 
All of the other review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
paroxysmal nocturnal dyspnea, worsening ankle edema, 
palpitations, syncope or presyncope.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes, +Dyslipidemia, +Hypertension 
 
2. CARDIAC HISTORY:   
3. OTHER PAST MEDICAL HISTORY:  
-IDDM II
-HTN
-diabetic neuropathy
-OSA on C-PAP
-HLD 
-gout with podagra
-chronic LBP
-LBBB
-colonic polyp ___
-ED, on testosterone
.
Surgical History
1. s/p R knee replacement
2. s/p cataract surgery ___
3. RFA R-GSV ___
4. left knee arthroscopy with partial medial meniscectomy and 
chondroplasty, ___
 
Social History:
___
Family History:
Significant for colon cancer in his mother who is currently ___ 
years old, father deceased who had prostate cancer.  2 brothers 
with CAD ___, though he is ___ of 14 children.
 
Physical Exam:
ADMISSION
VS: 134/72 58 18 96RA 98.1F 
GENERAL: WDW obese man in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL,Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. No xanthalesma.  
NECK: Supple with no appreciable JVD or appreciable HJR, exam 
suboptimal due to body habitus. 
CARDIAC: distant heart sounds but no appreciable m/r/g,  normal 
s1/s2.  
LUNGS:  Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits. (exam suboptimal 
due to body habitus)  
EXTREMITIES: ___ edema ankles lower calfs bilaterally. No 
femoral bruits.  
SKIN:+ stasis dermatitis right>Left; no ulcers, scars, or 
xanthomas. crural erythematous patches.  
PULSES:  
Right: Carotid 2+ + DP 2+ ___ 2+  
Left: Carotid 2+  DP 2+ ___ 2+  
.
DISCHARGE
Vitals: 97.9 ___ 18 97RA 144.4kg (down from 
149.8kg on ___
General: obese man sitting in bed in NAD.
Heent: moist mucous membranes
CV: difficult to auscultate due to body habitus but RR, normal 
s1/s2, ___ systolic murmur at apex
Lungs: Clear to auscultation bilaterally.
Abd: Obese. NABS+. NT/ND
Ext: WWP. No clubbing, cyanosis; trace edema improved from 
admit. 2+ distal pulses ___
skin: stable stasis dermatitis/ ___ hyperpigmentation; reduced 
erythema of crural folds
 
Pertinent Results:
ADMISSION
___ 11:45AM BLOOD WBC-4.2 RBC-4.50* Hgb-15.4 Hct-44.7 
MCV-99* MCH-34.3* MCHC-34.5 RDW-14.4 Plt ___
___ 11:45AM BLOOD Neuts-67.2 ___ Monos-8.2 Eos-1.9 
Baso-0.7
___ 11:45AM BLOOD Glucose-149* UreaN-10 Creat-1.1 Na-139 
K-4.8 Cl-103 HCO3-32 AnGap-9
___ 11:45AM BLOOD Albumin-3.8 Calcium-9.3 Phos-3.6 Mg-2.1
.
PERTINENT
___ 07:57AM BLOOD VitB12-321 Folate-GREATER TH
___ 11:45AM BLOOD TSH-2.1
___ 09:25PM URINE Color-Straw Appear-Clear Sp ___
___ 09:25PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
.
DISCHARGE
___ 10:05AM BLOOD WBC-4.3 RBC-4.90 Hgb-16.9 Hct-50.9 
MCV-104* MCH-34.4* MCHC-33.1 RDW-13.9 Plt ___
___ 10:05AM BLOOD Glucose-225* UreaN-21* Creat-1.2 Na-137 
K-4.8 Cl-97 HCO3-33* AnGap-12
___ 10:05AM BLOOD Calcium-9.3 Phos-3.3 Mg-2.2
.
CXR ___
FINDINGS: The heart is mildly enlarged with a left ventricular 
configuration. The aortic arch is calcified. Allowing for 
differences in technique, the mediastinal and hilar contours 
appear unchanged. There is probably slight congestion with a 
mild interstitial abnormality including peribronchial cuffing 
although this is probably a background finding for which 
differential considerations include slight chronic pulmonary 
congestion or airway inflammation. Otherwise, the lungs appear 
clear aside from patchy posterior basilar opacity partly 
obscuring the left hemidiaphragm, suggesting minor atelectasis. 
Mild degenerative changes are similar along the thoracic spine. 
IMPRESSION: Stable appearance of the chest.
.
TTE ___
The left atrium is moderately dilated. No atrial septal defect 
is seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and global 
systolic function (LVEF>55%). Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. Right ventricular chamber size and free wall motion 
are normal. The aortic root is mildly dilated at the sinus 
level. The ascending aorta is mildly dilated. The aortic arch is 
mildly dilated. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. Mild (1+) mitral 
regurgitation is seen. [Due to acoustic shadowing, the severity 
of mitral regurgitation may be significantly UNDERestimated.] 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global biventricular systolic function. Mild mitral 
regurgitation with normal valve morphology. Dilated thoracic 
aorta.
Compared with the prior study (images reviewed) of ___, 
the findings are similar.
.
ABDOMINAL ULTRASOUND  ___ 
FINDINGS: Limited evaluation of the liver that is within normal 
limits. No fluid is seen around the liver. No fluid is seen in 
the right and left lower quadrant.
IMPRESSION: No evidence of ascites.
.
CXR ___
FINDINGS: As compared to the previous radiograph, the patient 
has received a new pacemaker. The pacemaker leads are in 
expected position. The pacemaker generator is located in the 
left pectoral region. Borderline size of the cardiac silhouette 
without pulmonary edema. No pneumothorax. No pleural effusions.
.
CXR ___
FINDINGS: A left pectoral dual-chamber pacer terminates in the 
region of the right atrium and ventricle. The heart size is top 
normal. There is no pneumothorax, pleural effusion, or focal 
consolidation. Atherosclerotic calcifications are noted in the 
aortic knob. IMPRESSION: Stable placement of dual-chamber pacer. 
No evidence of complication.
 
Brief Hospital Course:
Mr. ___ is a ___ male with h/o hypertension, type 2 
diabetes, obesity, and venous stasis with recurrent cellulitis 
who presents with shortness of breath and lightheadedness and 
found to have sinus bradycardia with concern for significant 
conduction disease. 
   
# Shortness of breath: Diastolic Heart Failure
The patient presented with new onset exertional dyspnea 
concerning for unstable angina or heart failure. The patient had 
no previous documented history of CAD, but possessed risk 
factors including HTN and DM. Exercise Stress test in ___ in 
setting of a research study revealed fair exercise tolerance w/o 
symptoms, but unable to interpret changes due to LBBB. The 
patient's history, edema, and CXR with note of interstitial 
edema  were highly suggestive of diastolic heart failure. The 
patient was started on IV furosemide with improvement in 
symptoms following diuresis. He was diuresed with Furosemide 
20mg IV daily from ___ and ___ with good response. He was 
then transitioned to oral furosemide at 40mg, on which he was 
discharged. Admission weight was 149.8kg. Discharge weight was 
144.4kg. The patient had a fluid balance of negative five to six 
liters prior to discharge. His renal function remained stable. 
The patient will need to follow up in the outpatient setting to 
re-assess renal function and electrolytes and possibly adjust 
diuretic dose. 

Transthoracic echo during this admission showed LVH, EF>60% , 
and mild mitral regurgitation. No discrete wall motion 
abnormalities were noted, (although due to suboptimal study this 
was not excluded.) The patient was continued on cardioprotective 
regimen of Aspirin 81mg daily and lisinopril 30mg daily. A 
statin was not initiated in the inpatient setting, but the 
patient may benefit from a statin for endothelial protective 
aspects. A beta blocker was not initiated given concern for 
heart block.  The patient will follow up in the outpatient 
setting with his PCP and with cardiology for further management.
.
.  
# Arrythmia:  
On admission the patient was in sinus rhythm, but bradycardic 
with first degree AVB. EKG and telemetry in ED showed evidence 
of 2:1 conduction. With carotid sinus massage bradycardia was 
able to bring out wenchebach AV block. With abulation patient 
had increased heart rate with 1:1 conduction, however, also 
noted  widened QRS/LBBB. This suggested AVN disease and rate 
related LBBB or pause related LBBB. Altogether, this was 
concerning for potentially significant infranodal conduction 
system disease and potential for further decompensation in 
future to third degree heart block. Patient underwent EP study 
on ___ which showed disease in his-bundle system with high risk 
for heart block so a dual chamber pacemaker was placed. The 
patient suffered no complications. He was discharged on a short 
course of prophylactic antibiotics and will follow up in device 
clinic as an outpatient. Of note, the patient uses multiple 
complementary/alternative medicine devices containing magnets 
for the treatment of Diabetic neuropathy. He was informed of the 
dangers of placing a magnet directly over the chest in the area 
of the pacemaker. He was instructed to bring these devices to 
clinic for further assessment.
.  
.  
#  HYPERTENSION
Remained adequately controlled for the majority of his hospital 
course. He was continued on Lisinopril 30 mg daily and started 
on Furosemide 40 mg daily. 
.
#  DIABETES MELLITUS TYPE 2
Patient's A1C was 7.5 in ___. Patient's insulin requirement 
was reduced in the inpatient setting likely reflecting improved 
adherence to diabetic diet. Patient appeared to have poor 
understanding of low simple carb diet and described a distaste 
for artificial sweeteners. Nutrition consult was obtained for 
education regarding diabetic and cardiac diet.  He was 
discharged on his home insulin regimen with instructions to 
monitor blood glucose closely and call MD for BG less than 80 or 
more than 250 for proper insulin titration. 
.  
#  HYPERLIPIDEMIA
LDL on  ___ was 103. ___ 209. TC 175. Patient was not on 
lipid lowering medication upon admission and this was not 
initiated in the inpatient setting. This should be re-addressed 
in the outpatient setting. 
.  
# TINEA CRURIS
Likely related to poorly controlled DM, increased moisture in 
area and obesity. Started on course of Miconazole Powder 2% 1 
Appl TP BID. 
.
# THROMBOCYTOPENIA AND MACROCYTOSIS
Chronic, not far from baseline but etiology unclear. Patient 
denied h/o ETOH abuse, and TSH, B-12, folate were all within 
normal limits. B-12 was noted to be downtrending when comparing 
previous values, thus could consider MMA for confirmation in 
outpatient setting. Values remained stable/ within baseline 
throughout hospital course. 
.
# OSA
He was continued on nocturnal C-PAP.
.
# Weight gain with subjective increase in abdominal girth
Given imprecise exam with patient's body habitus difficult to 
assess.  Laboratory studies revealed normal albumin and no 
significant proteinuria to suggest nephrotic syndrome. Abdominal 
ultrasound was obtained which revealed no underlying ascites.   
Patient feels some improvement with diuresis. Overall, felt 
likely secondary to generalized fluid retention in the setting 
of diastolic heart failure. Patient noted some improvement with 
diuresis. (see above)
.
# Conjunctival erythema and tearing
Patient complained of eye tearing and redness without pruritus 
or purulent dishcarge. Exam without findings concerning for 
infectious conjunctivitis and symptoms felt likely secondary to 
non-specific irriation due to dryness. Patient given artificial 
Tears to be used as needed.
.  
TRANSITION OF CARE
- follow up with PCP for management of DM, HTN, evaluation of 
thrombocytopenia/ macrocytosis, tinea cruris. He will also need 
f/u labs given initiation of diuretic.
- follow up with cardiology for management of diastolic heart 
failure
- follow up with electrophysiology in device clinic
- maintained full code status throughout hospital course.

 
Medications on Admission:
LISINOPRIL - 30 mg Tablet - 1 Tablet(s) by mouth daily
ASPIRIN - 81 mg Tablet, one Tablet(s) by mouth daily
INSULIN REGULAR HUMAN [NOVOLIN R] - 100 unit/mL Solution - BID 
per ISS
MULTIVITAMIN 
NPH INSULIN HUMAN RECOMB [NOVOLIN N] - 100 unit/mL Suspension 
-60 units in AM, 60 or 50 units at night twice a day
TESTOSTERONE Qweek
.  
.  
ALLERGIES: 
Oxycodone- pruritus
 
Discharge Medications:
1. lisinopril 30 mg Tablet Sig: One (1) Tablet PO once a day.  
2. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. miconazole nitrate 2 % Powder Sig: One (1) Appl Topical BID 
(2 times a day) for 14 days.
Disp:*qs qs* Refills:*0*
4. polyvinyl alcohol-povidon(PF) 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic PRN (as needed) as needed for red eyes.
Disp:*1 bottle* Refills:*0*
5. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
for 14 days.
Disp:*14 Tablet(s)* Refills:*1*
6. insulin regular human 100 unit/mL Solution Sig: as directed  
Injection twice a day: per previous sliding scale .  
7. NPH insulin human recomb 100 unit/mL Suspension Sig: as 
directed  Subcutaneous twice a day: Per previous regimen: 60 
units in the  morning, 50 units in the evening (or 60 units in 
the evening).  
8. testosterone enanthate 200 mg/mL Oil Sig: One (1) injection 
Intramuscular once a week.  
9. cephalexin 500 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) for 2 days.
Disp:*8 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrioventricular node conduction disease and bundle branch 
block, diastolic heart failure, diabetes mellitus II

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to the hospital for low heart rate and 
shortness of breath.  We were concerned that you had a problem 
with the conduction system in your heart that might cause 
abnormal heart rhythms or cause your heart to stop beating. We 
did a procedure to test for this and found significant disease 
in your conduction system that made us worried about the 
possibility of your heart stopping suddenly, so a pacemaker was 
placed. You will need to follow up in device clinic to have this 
checked. Please remember to bring with you all products 
containing magnets so they can be assessed; and please remember 
never to place a magnet over your chest in the area of the 
pacemaker, as this can cause the device to stop working.

You were also found to have some fluid overload. This is because 
your heart muscles are very stiff and are causing blood to back 
up in the lungs and in your legs (diastolic heart failure). We 
treated you with a diurectic, Furosemide (Lasix), and you 
improved. It is important to continue taking this medication to 
prevent fluid from building up. You will need to follow up with 
your doctor once you leave to check labs and to adjust your 
dose. You will also need to see a cardiologist for further 
evaluation of heart failure. It is also important to lose weight 
and control your blood pressure and diabetes, as all of these 
affect your heart.

While you were here you required less insulin than you were on 
before. This is probably because your diet in the hospital had 
less sugar. Please continue to check your blood sugars 
frequently once you leave and call your doctor if your blood 
sugar is less than 80 or more than 250 so that appropriate 
adjustments to your insulin can be made.

Medication changes
START Furosemide (diuretic)
START Miconazole Powder 2% (for skin fungal infection)
START Cephalexin (antibiotic to prevent infection in pacemaker)
 
Followup Instructions:
___